US08071779B2
N-(Piperidin-3-yl)pyridin-4-amine
Reaction of tert-butyl 3-oxopiperidine-1-carboxylate and 4-aminopyridine using the method of Example 3 followed by deprotection using the method of Example 4 affords the title compound.

reactant | tert-butyl 3-oxopiperidine-1-carboxylate | O=C1CN(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
product | N-(Piperidin-3-yl)pyridin-4-amine | N1CC(CCC1)NC1=CC=NC=C1 | C10H15N3
